US04874775
N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 8.9 g. portion of 3-(2,4-difluorophenylaminomethyl)pyridine was dissolved in 30 ml. of dichloromethane, and to it was added 6.9 g. of potassium carbonate and 3.9 ml. of methanesulfonyl chloride. The mixture was stirred at ambient temperature for several days, and then was heated and stirred at the reflux temperature overnight. It was then cooled, extracted with aqueous sodium bicarbonate, dried over magnesium sulfate and evaporated to a small volume. The residue was chromatographed over silica gel, eluting first with dichloromethane and then with 9:1 dichloromethane:ethyl acetate. The product-containing fractions were combined and evaporated to obtain impure product, which was triturated with diethyl ether and dried to obtain 5.6 g. of the desired product, m.p. 132°-135°.

reactant | 3-(2,4-difluorophenylaminomethyl)pyridine | FC1=C(C=CC(=C1)F)NCC=1C=NC=CC1 | C12H10F2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | FC1=C(C=CC(=C1)F)N(S(=O)(=O)C)CC=1C=NC=CC1 | C13H12F2N2O2S
